US08859602B2
4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(4-hydroxy-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide
The title compound was prepared as described in Example 1 step (h) using 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridine-3-yl]-amide (as prepared in the Example 32 steps (d)) and tetrahydropyran-4-one. Mass spectrum (ESI, m/z): Calcd. for C25H27N5O3, 422.2 (M+H). found 422.2.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridine-3-yl]-amide | BrC1=C(C(=NC=C1)C1=CCC(CC1)(C)C)NC(=O)C=1NC=C(N1)C#N | C18H18BrN5O
reactant | tetrahydropyran-4-one | O1CCC(CC1)=O | C5H8O2
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(4-hydroxy-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide | CC1(CC=C(CC1)C1=NC(=CC=C1NC(=O)C=1NC=C(N1)C#N)C1(CCOCC1)O)C | C23H27N5O3
